US04127665
A mixture of 0.900 g (4.30 mmol) of 1,3-dichloro-cyclopenta(c) thiophene-4-one (MacDowall et. al., J. Org. Chem., 32, 1226 (1967) 0.488 g (7.50 mmol) of potassium cycnide and 3.30 g (34 mmol) of powdered ammonium carbonate were heated with 25 ml of 50% aqueous ethanol at 110°-120° C. in a steel bomb for 16 hours. The reaction mixture was cooled, diluted with 200 ml of water, boiled for 10 to 15 minutes, then cooled and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo to a tan solid (0.980 g) which was crystallized from ethyl acetate to give 0.600 g (50%) of 1,3-dichloro-spiro[cyclopenta(c)thiophene-4,4'-imidazolidine]-2',5'-dione, mp 239°-241° C.

reactant | 1,3-dichloro-cyclopenta(c) thiophene-4-one | 4.30 mmol, 0.900 g | ClC=1SC(=C2C1C=CC2=O)Cl | C7H2Cl2OS
reactant | potassium | 7.50 mmol, 0.488 g | [K] | K
reactant | ammonium carbonate | 34 mmol, 3.30 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 1,3-dichloro-spiro[cyclopenta(c)thiophene-4,4'-imidazolidine]-2',5'-dione | 0.600 g, 50% | ClC=1SC(=C2C1C=CC21NC(NC1=O)=O)Cl | C9H4Cl2N2O2S
